US04946834
A solution of 17β-(hydroxymethyl)-androst-4-ene-3-ol (27 g, 0.089 mol) in 1200 ml trichloromethane was treated with activated manganese dioxide (66 g). After 3 hours the mixture was filtered. Concentration afforded 26 g (96%) of 3-oxo-17β-(hydroxymethyl)-4androstene (m.p. 151° C.).

reactant | 17β-(hydroxymethyl)-androst-4-ene-3-ol | 0.089 mol, 27 g | OC[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)O | C20H32O2
solvent | trichloromethane | 1200 ml | ClC(Cl)Cl | CHCl3
catalyst | manganese dioxide | 66 g | [O-2].[O-2].[Mn+4]
product | 3-oxo-17β-(hydroxymethyl)-4androstene | 26 g, 96% | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CO | C20H30O2
